US07662972B2
N-Aminomethyl-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methyl benzoic acid amide hydrochloride (Compound of the Present Invention No. 5-507)
In a solution of 0.47 g of [bis(trifluoroacetoxy)iodo]benzene in 12 ml of acetonitrile-water (1:1), a solution of 0.47 g of N-carbamoylmethyl-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methyl benzoic acid amide synthesized in Synthetic Example 31 was added with stirring at room temperature, and stirred at room temperature for 5 hours. After the completion of the reaction, 75 ml of water was added in the reaction mixture, 8 ml of concentrated hydrochloric acid was added, then washed with 100 ml of diethyl ether, and the organic phase was subjected to back extraction with 2N hydrochloric acid aqueous solution (20 ml×2). The aqueous phase was combined with the organic phase, water was distilled off, and the residual solid was washed with ethyl acetate to obtain 0.21 g of the aimed product as white crystal.

reactant | [bis(trifluoroacetoxy)iodo]benzene | 0.47 g | FC(C(=O)OI(OC(C(F)(F)F)=O)C1=CC=CC=C1)(F)F | C10H5F6IO4
reactant | N-carbamoylmethyl-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methyl benzoic acid amide | 0.47 g | C(N)(=O)CNC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C20H16Cl2F3N3O3
reactant | water | 75 ml | O | H2O
reactant | hydrochloric acid | 8 ml | Cl | ClH
reactant | acetonitrile water | 12 ml | C(C)#N.O
product | N-Aminomethyl-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methyl benzoic acid amide hydrochloride | 0.21 g | Cl.NCNC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | InChI=1S/C19H16Cl2F3N3O2.ClH/c1-10-4-11(2-3-15(10)17(28)26-9-25)16-8-18(29-27-16,19(22,23)24)12-5-13(20)7-14(21)6-12;/h2-7H,8-9,25H2,1H3,(H,26,28);1H
